US08492425B2
A solution of 2-(2-(1-(6-methoxynaphthalen-2-yl)-5-methyl-1H-pyrazol-3-yloxy)ethylamino)etanol (104 mg, 0.307 mmol) in HCl conc. (4 ml) was heated to reflux during 7 hrs. Then, it was cooled and evaporated to dryness in a rotavapor, the crude residue was washed with ethyl ether and 91 mg of 6-(3-(2-(2-hydroxyethylamino)ethoxy)-5-methyl-1H-pyrazol-1-yl)naphthalen-2-ol hydrochloride were obtained as a solid with a melting point=115-118° C. (yield: 81%)

reactant | 2-(2-(1-(6-methoxynaphthalen-2-yl)-5-methyl-1H-pyrazol-3-yloxy)ethylamino)etanol | 0.307 mmol, 104 mg | COC=1C=C2C=CC(=CC2=CC1)N1N=C(C=C1C)OCCNCCO | C19H23N3O3
reactant | HCl | 4 ml | Cl | ClH
product | 6-(3-(2-(2-hydroxyethylamino)ethoxy)-5-methyl-1H-pyrazol-1-yl)naphthalen-2-ol hydrochloride | 91 mg, yield: 81% | Cl.OCCNCCOC1=NN(C(=C1)C)C=1C=C2C=CC(=CC2=CC1)O | InChI=1S/C18H21N3O3.ClH/c1-13-10-18(24-9-7-19-6-8-22)20-21(13)16-4-2-15-12-17(23)5-3-14(15)11-16;/h2-5,10-12,19,22-23H,6-9H2,1H3;1H
